US08304546B2
10% palladium/carbon (260 mg) was added to a THF (30 ml) and ethanol (15 ml) solution of 5-fluoro-3-(4-methoxyphenyl)-4-oxo-8-propoxy-4H-quinolin-1-ylmethyl 4-benzyloxybenzoate (2.6 g, 4.6 mmol). The mixture was subjected to hydrogen substitution and stirred at room temperature for 3 hours. After completion of the reaction, the catalyst was removed by conducting filtration using Celite, and the mixture was concentrated to dryness under reduced pressure, giving a pale yellow powder of 5-fluoro-3-(4-methoxyphenyl)-4-oxo-8-propoxy-4H-quinolin-1-ylmethyl 4-hydroxybenzoate (2.22 g, yield: quantitative).

reactant | THF | 30 ml | C1CCOC1 | C4H8O
reactant | 5-fluoro-3-(4-methoxyphenyl)-4-oxo-8-propoxy-4H-quinolin-1-ylmethyl 4-benzyloxybenzoate | 4.6 mmol, 2.6 g | C(C1=CC=CC=C1)OC1=CC=C(C(=O)OCN2C=C(C(C3=C(C=CC(=C23)OCCC)F)=O)C2=CC=C(C=C2)OC)C=C1 | C34H30FNO6
reactant | hydrogen | [H][H] | H2
catalyst | palladium/carbon | 260 mg | [Pd] | Pd
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 5-fluoro-3-(4-methoxyphenyl)-4-oxo-8-propoxy-4H-quinolin-1-ylmethyl 4-hydroxybenzoate | 2.22 g, yield: quantitative | OC1=CC=C(C(=O)OCN2C=C(C(C3=C(C=CC(=C23)OCCC)F)=O)C2=CC=C(C=C2)OC)C=C1 | C27H24FNO6
